US04686217
3-Methyl 5-(1-methylethyl) 4-(2,3-dichloro-6-fluorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate
2,3-Dichloro-6-fluorobenzaldehyde (1.44 g, 7.5 mmoles), methyl 4-fluoro-3-oxobutanoate (1.0 g, 7.5 mmoles) and 1-methylethyl 3-amino-2-butenoate (1.06 g, 7.5 mmoles) were heated at 90° under nitrogen with stirring for 2.5 hours. The cooled reaction mixture was chromatographed on silica eluting with ethyl acetate/methylene chloride mixtures. The title compound (1.1 g) was obtained by crystallisation from a petroleum ether (60°-80°)/2-propanol mixture mp 129°-31°.

reactant | 2,3-Dichloro-6-fluorobenzaldehyde | 7.5 mmoles, 1.44 g | ClC1=C(C=O)C(=CC=C1Cl)F | C7H3Cl2FO
reactant | methyl 4-fluoro-3-oxobutanoate | 7.5 mmoles, 1.0 g | FCC(CC(=O)OC)=O | C5H7FO3
reactant | 1-methylethyl 3-amino-2-butenoate | 7.5 mmoles, 1.06 g | NC(=CC(=O)OC(C)C)C | C7H13NO2
product | 3-Methyl 5-(1-methylethyl) 4-(2,3-dichloro-6-fluorophenyl)-2-(fluoromethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylate | 1.1 g | ClC1=C(C(=CC=C1Cl)F)C1C(=C(NC(=C1C(=O)OC(C)C)C)CF)C(=O)OC | C19H19Cl2F2NO4
